US04085272
Preparation of 4-triphenylmethoxy-1-hexyne
A stirred solution of 9.81 g (0.10 moles) of 4-hydroxy-1-hexyne and 33.5 g (0.12 moles) of triphenylmethyl chloride in 100 ml of dry pyridine is heated at reflux for 2 hours. The cooled mixture is treated with water and extracted with a hexane-ether mixture. The extract is washed successively with water and saturated sodium chloride solution, dried over magnesium sulfate, and concentrated. Column chromatography of the residue on Florisil gives an oil, max. 3290 (acetylenic hydrogen), 1600, 1030 and 705 cm-1 (triphenylmethoxy group).

reactant | 4-hydroxy-1-hexyne | 0.10 moles, 9.81 g | OC(CC#C)CC | C6H10O
reactant | triphenylmethyl chloride | 0.12 moles, 33.5 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | water | O | H2O
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-triphenylmethoxy-1-hexyne | C1(=CC=CC=C1)C(OC(CC#C)CC)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24O
